US06706732B1
A solution of 2-chloro-5-fluorotoluene (5.0 g) in acetic anhydride (40 ml) was treated dropwise with concentrated sulfuric acid (40 ml) with cooling on ice. Subsequently, a solution of chromic anhydride (9.3 g) in acetic anhydride (40 ml) was added dropwise over a period of 2 hours. At the same temperature, the mixture was stirred for 1 hour, and added to an ice-water. The mixture was extracted with diethyl ether and the organic layer was washed successively with aqueous sodium carbonate, water and saturated brine, and then dried over magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was dissolved in tetrahydrofuran (10 ml), combined with water (4 ml) and concentrated sulfuric acid (4 ml), and heated with stirring at 100° C. for 30 minutes. After allowed to stand to cool, the reaction mixture was extracted with ethyl acetate, and the organic layer was washed successively with aqueous sodium carbonate, water and saturated brine, and dried over magnesium sulfate. The solvent was distilled off and the residue was subjected to a column chromatography on a silica gel to obtain 2-chloro-5-fluorobenzaldehyde (1.6 g).

reactant | 2-chloro-5-fluorotoluene | 5.0 g | ClC1=C(C=C(C=C1)F)C | C7H6ClF
reactant | sulfuric acid | 40 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic anhydride | 40 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic anhydride | 40 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-chloro-5-fluorobenzaldehyde | 1.6 g | ClC1=C(C=O)C=C(C=C1)F | C7H4ClFO
